US06020329
2-Ethoxycarbonyl-Z-but-2-enyl (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate, (0.35g) in 1-methyl-2-pyrrolidinone (4ml) was treated with a solution of ethyl (Z)-2-bromomethylbut-2-enoate, (0.16g) in 1-methyl-2-pyrrolidinone (1ml) and stirred at ambient temperature overnight. The solution was diluted with ethyl acetate and washed with water (3x), brine and then dried. After removal of solvent in vacuo, the residue was purified by flash chromatography on silica gel, eluting with 70, 90% ethyl acetate-hexane and then ethyl acetate. The title compound was obtained as a pale yellow foam (0.368g, 86%); vmax (CH2Cl2) 3480, 3389, 3320, 1781, 1726, 1682, 1606 and 1532cm-1 ; δH (CDCl3) 1.30 (4H, t, J 7.1Hz, overlapping M), 1.66 (1H, m), 1.97 (3H, d, J 7.3Hz), 2.35 (1H, m), 3.33 and 3.64 (2H, ABq, J 18.7Hz), 3.88 (2H, m), 4.08 (3H, s), 4.22 (2H, q, J 7.1Hz), 4.93 (1H, m), 5.05 (3H, m), 5.80 (2H, br s, exch.), 5.99 (1H, dd, J 4.8, 9.0Hz, collapses to d, J 4.8Hz on exch.), 6.83 (1H, s), 7.21 (1H, q, J 7.3Hz) and 7.73 (1H, d, J 9.0Hz, exch.). [Mass spectrum: +ve ion (thioglycerol) MH+ (580)].

reactant | Sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 0.35g | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)[O-])C1=O)=N/OC.[Na+]
reactant | ethyl (Z)-2-bromomethylbut-2-enoate | 0.16g | BrC\C(\C(=O)OCC)=C/C | C7H11BrO2
solvent | 1-methyl-2-pyrrolidinone | 4ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Ethoxycarbonyl-Z-but-2-enyl (6R,7R)-7-[2-(2-Aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OC/C(=C/C)/C(=O)OCC)C1=O)=N/OC | C24H29N5O8S2
